US06265400B1
Part E. 1-Boc-indole-3-propionaldehyde
To a solution of methyl 1-Boc-indole-3-propionate(2.0 g, 6.6 mmol) in toluene(20 ml) cooled at −78° C. was added a 1.5M toluene solution of DIBAL-H slowly so that the internal temperature was kept below −65° C. After addition, stirring was continued at −78° C. for additional 2 hrs. After quenched with 3 ml of MeOH, the mixture was poured into a NaCl solution and extrated with EtOAc. The combined organic solution was washed with a queous acid , NaHCO3 and bine, then dried over Na2SO4. Flush chromatography gave 1.4 g of oily product. 1H NMR(300 MHz, CDCl3) δ1.68(s, 9H), 2.84(t, 2H), 3.04(t, 2H), 7.20-7.40(m, 3H), 7.52(d, 1H), 8.14(d, 1H), 9.90(s, 1H); MS(ESI) Calc. for (M+1)+: 274. Found: 274.

reactant | methyl 1-Boc-indole-3-propionate | 6.6 mmol, 2.0 g | C(=O)(OC(C)(C)C)N1C=C(C2=CC=CC=C12)CCC(=O)OC | C17H21NO4
reactant | DIBAL-H | CC(C)C[AlH]CC(C)C
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 1.5M | C1(=CC=CC=C1)C | C7H8
product | 1-Boc-indole-3-propionaldehyde | 1.4 g | C(=O)(OC(C)(C)C)N1C=C(C2=CC=CC=C12)CCC=O | C16H19NO3
